US06291455B1
A solution of 1-(2-hydroxyethyl)4-methylpiperazine (112 mg, 0.78 mmol) in methylene chloride (1 ml) was added to a stirred suspension of 4-(4-chloro-2-fluoroanilino)-7-hydroxy-6-methoxy-quinazoline (225 mg, 0.7 mmol), (prepared as described for the starting material in Example 4), and tributylphosphine (420 mg, 2.1 mmol) in methylene chloride (10 ml). 1,1′-(Azodicarbonyl)dipiperidine (525 mg, 2.1 mmol) was then added in portions to the mixture. The resulting clear, pale yellow solution was stirred for 3.5 hours, then allowed to stand overnight. The reaction mixture was quenched with ether (8 ml) and the precipitate was removed by filtration. The solvent was removed from the filtrate by evaporation and the residue dissolved in acetone and treated with 1M ethereal hydrogen chloride until the hydrochloride salt precipitated. The precipitate was collected by filtration, dissolved in methanol and then basified with excess triethylamine. The volatiles were removed by evaporation and the residue purified by column chromatography eluting with methylene chloride/methanol/0.88 aqueous ammonia (100/8/1). The resulting purified oil was triturated with ether, collected by filtration and dried to give 4-(4-chloro-2-fluoroanilino)-6-methoxy 7-(2-(4-methylpiperazin-1-yl)ethoxy)quinazoline (79 mg, 25%) as a white solid.

reactant | 1-(2-hydroxyethyl)4-methylpiperazine | 0.78 mmol, 112 mg | OCCN1CCN(CC1)C | C7H16N2O
reactant | 4-(4-chloro-2-fluoroanilino)-7-hydroxy-6-methoxy-quinazoline | 0.7 mmol, 225 mg | ClC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)O)C=C1)F | C15H11ClFN3O2
reactant | tributylphosphine | 2.1 mmol, 420 mg | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-(Azodicarbonyl)dipiperidine | 2.1 mmol, 525 mg | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | methylene chloride | 1 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 4-(4-chloro-2-fluoroanilino)-6-methoxy 7-(2-(4-methylpiperazin-1-yl)ethoxy)quinazoline | 79 mg, 25% | ClC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)OCCN2CCN(CC2)C)C=C1)F | C22H25ClFN5O2
